US07041687B2
3,5-Diamino-indazole-1-carboxylic acid tert-butyl ester:
3-Amino-5-nitroindazole-1-carboxylic acid tert-butyl ester (3 g, 10.8 mmol) was dissolved in MeOH (50 mL) and the solution degassed (3× alternating vacuum/nitrogen purges). Palladium on charcoal 10% w/w (300 mg) was added and the nitrogen atmosphere replace by hydrogen. After 3 hours, the mixture was filtered through a pad of Celite® and the filtrate concentrated to afford the title compound as a highly viscous oil (2.17 g, 81%). 1H NMR (400 MHz, DMSO)1.55 (9H, s), 5.07 (2H, brs), 6.04 (2H, brs), 6.79–6.82 (2H, m), 7.62 (1H, brs). MS (ES+) m/e=249.

reactant | 3-Amino-5-nitroindazole-1-carboxylic acid tert-butyl ester | 10.8 mmol, 3 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])N | C12H14N4O4
solvent | MeOH | 50 mL | CO | CH4O
product | 3,5-Diamino-indazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)N)N | C12H16N4O2
